US09403832B2
5.6.7. Synthesis of (S)-tert-butyl 2-(((3-(2-methoxyphenyl)pyrazolo[1,5-a]pyrimidin-5-yl)amino)methyl)pyrrolidine-1-carboxylate
The Suzuki coupling of (S)-tert-butyl 2-(((3-bromopyrazolo[1,5-a]pyrimidin-5-yl)amino)methyl)pyrrolidine-1-carboxylate with (2-methoxyphenyl)boronic acid under the same conditions as described in example 5.6.5 to give 68% of the titled compound. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.50 (s, 9 H) 1.85-2.12 (m, 4 H) 3.40 (dd, J=7.58, 4.04 Hz, 2 H) 3.46-3.59 (m, 1 H) 3.59-3.67 (m, 1 H) 3.94 (s, 3 H) 4.19 (br. s., 1 H) 6.07 (d, J=7.07 Hz, 1 H) 6.99 (d, J=7.58 Hz, 1 H) 7.06 (td, J=7.45, 1.01 Hz, 1 H) 7.15-7.22 (m, 1 H) 8.14-8.28 (m, 1 H) 8.45 (d, J=6.82 Hz, 1 H) 8.51 (s, 1 H); LRMS (ESI) m/e 424.0 [(M+H)+, calcd for C23H29N5O3 423.0].

reactant | (S)-tert-butyl 2-(((3-bromopyrazolo[1,5-a]pyrimidin-5-yl)amino)methyl)pyrrolidine-1-carboxylate | BrC=1C=NN2C1N=C(C=C2)NC[C@H]2N(CCC2)C(=O)OC(C)(C)C | C16H22BrN5O2
reactant | (2-methoxyphenyl)boronic acid | COC1=C(C=CC=C1)B(O)O | C7H9BO3
product | (S)-tert-butyl 2-(((3-(2-methoxyphenyl)pyrazolo[1,5-a]pyrimidin-5-yl)amino)methyl)pyrrolidine-1-carboxylate | 68% | COC1=C(C=CC=C1)C=1C=NN2C1N=C(C=C2)NC[C@H]2N(CCC2)C(=O)OC(C)(C)C | C23H29N5O3
